US06362211B1
h) 9a-(1H-Imidazol-4-yl)-2,3,4,4a,9,9a-hexahydro-1H-fluoren-9-ol
9a-(1H-Imidazol-4-yl)-1,2,3,4,4a,9a-hexahydrofluoren-9-one (0.41 g) was dissolved in ethanol (10 ml). 48% NaOH solution (0.003 ml) and NaBH4 (0.06 g) was added and the mixture was heated at 40° C. for 12 hours. Water (2.5 ml) was added and the mixture was cooled to the ambient temperature. HCl (0.3 ml of 30% HCl in 1 ml H2O) was added and the mixture was stirred for 5 minutes. NaOH (0.2 ml of 48% NaOH in 5 ml H2O) was then added and the solvents were evaporated. The residue was mixed with water (30 ml) and extracted with CH2Cl2 (3×30 ml) and evaporated. The crude product was purified by flash chromatography using methylene chloride/methanol (95:5) as eluent. The yield was 0.26 g.

reactant | 9a-(1H-Imidazol-4-yl)-1,2,3,4,4a,9a-hexahydrofluoren-9-one | 0.41 g | N1C=NC(=C1)C12C(C3=CC=CC=C3C2CCCC1)=O | C16H16N2O
reactant | NaOH | 0.003 ml | [OH-].[Na+]
reactant | NaBH4 | 0.06 g | [BH4-].[Na+]
reactant | HCl | 0.3 ml | Cl | ClH
reactant | NaOH | 0.2 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | Water | 2.5 ml | O | H2O
product | 9a-(1H-Imidazol-4-yl)-2,3,4,4a,9,9a-hexahydro-1H-fluoren-9-ol | N1C=NC(=C1)C12C(C3=CC=CC=C3C2CCCC1)O | C16H18N2O
